US09029405B2
Step 2: (2S)-tert-butyl 3-methyl-2-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)butanoate
To (4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)ethanol (84 mg; 0.2 mmol) in DCM (2 mL) was added DIEA (71 μL; 0.4 mmol) and mesyl chloride (17 μL; 0.22 mmol), at 0° C. The resulting mixture was stirred at 0° C. for 10 minutes, allowed to warm to RT and stirred for 2 hours. The mixture was diluted with DCM (20 mL) and saturated aqueous NaHCO3 solution was added. The aqueous layer was extracted with DCM (3×20 mL), the combined organic fractions were dried (MgSO4), filtered and the solvent removed in vacuo. The crude residue was all used in the next step without further purification. It was dissolved in dioxan (2 mL). Potassium carbonate (165 mg, 1.2 mmol) and (S)-tert-butyl 2-amino-3-methylbutanoate (104 mg; 0.60 mmol) were added. The mixture was heated at 130° C. for 72 hours, diluted with DCM (5 mL) and water (5 mL). The aqueous layer was extracted with DCM (3×20 mL), the combined organic fractions were dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by flash chromatography eluting with petrol containing increasing amounts of EtOAc to give the title compound as a colourless gum (86 mg; 72%). 1H NMR (CDCl3, 400 MHz) δ 8.63 (1H, s), 8.39 (1H, dd, J=8.0, 1.7 Hz), 8.12 (2H, d, J=8.1 Hz), 7.47 (1H, d, J=8.0 Hz), 7.43-7.21 (5H, m), 7.16 (1H, d, J=7.6 Hz), 2.99-2.68 (5H, m), 2.07 (3H, s), 1.94-1.79 (1H, m), 1.46 (9H, s), 0.94 (6H, dd, J=6.8, 3.7 Hz). LC/MS (Method B): 580 (M+H)+. HPLC (Method D) Rt 3.7 min (Purity: 94.9%).

reactant | (4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)ethanol | 0.2 mmol, 84 mg | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)C(C)O)C(F)(F)F | C24H19F3N2O2
reactant | DIEA | 0.4 mmol, 71 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | mesyl chloride | 0.22 mmol, 17 μL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | Potassium carbonate | 1.2 mmol, 165 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-tert-butyl 2-amino-3-methylbutanoate | 0.60 mmol, 104 mg | N[C@H](C(=O)OC(C)(C)C)C(C)C | C9H19NO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | (2S)-tert-butyl 3-methyl-2-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)butanoate | 86 mg, 72% | CC([C@@H](C(=O)OC(C)(C)C)NCCC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)C | C33H36F3N3O3
